US09303000B2
In a 3-neck 100 mL round-bottomed flask, 3-cyano-5-(trifluoromethyl)benzoic acid (2.5 g, 1 eq.) was dissolved in dichloromethane (25 mL, 10 Vol) and cool to 0° C. added DMF (0.2 mL, cat.). Then added oxalyl chloride drop wise in 0.5 hr. The reaction mixture was stirred at 0° C. for 1-2 hr. Reaction completion was monitored on TLC using MeOH:dichloromethane (1:9) mobile phase. Reaction mixture was concentrated under reduced pressure to afford 3.0 g of crude 3-cyano-5-(trifluoromethyl)benzoyl chloride, which was immediately used for next step.

reactant | 3-cyano-5-(trifluoromethyl)benzoic acid | 2.5 g, 1 eq. | C(#N)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C9H4F3NO2
reactant | DMF | 0.2 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | MeOH dichloromethane | CO.ClCCl
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-cyano-5-(trifluoromethyl)benzoyl chloride | 3.0 g | C(#N)C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F | C9H3ClF3NO
